US07902400B2
A mixture of 2 ml of chloroform and 229 mg of zinc (II) chloride was stirred at room temperature for 5 minutes. Then, a mixture of 230 mg of 7-[3-fluoro-4-(2-propynyloxy)benzoyl]-7-azabicyclo[4.1.0]heptane and 2 ml of chloroform was added dropwise thereto at room temperature, and the resulting mixture was stirred at room temperature for 5 hours. Then, an aqueous saturated ammonium chloride solution was added to the reaction mixture, and this was extracted with chloroform. The organic layer was dried over magnesium sulfate, and concentrated under reduced pressure. The residue was washed with hexane to obtain 0.20 g of N-(2-chlorocyclohexyl)-3-fluoro-4-(2-propynyloxy)benzamide (hereinafter, described as the compound 110 of the present invention) represented by the formula:

reactant | 7-[3-fluoro-4-(2-propynyloxy)benzoyl]-7-azabicyclo[4.1.0]heptane | 230 mg | FC=1C=C(C(=O)N2C3CCCCC23)C=CC1OCC#C | C16H16FNO2
reactant | ammonium chloride | [Cl-].[NH4+]
catalyst | zinc (II) chloride | 229 mg | [Cl-].[Zn+2].[Cl-]
solvent | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(2-chlorocyclohexyl)-3-fluoro-4-(2-propynyloxy)benzamide | 0.20 g | ClC1C(CCCC1)NC(C1=CC(=C(C=C1)OCC#C)F)=O | C16H17ClFNO2
